US08207178B2
Step F: tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl-4-cyanophenylcarbamate
To a cold mixture of tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-yl(4-cyanophenyl)carbamate (1.5 mmol) in THF (5 ml) at −78° C. is added a solution of LiHMDS (2 mmol). The mixture is warmed to 0° C. over 2 hours and then cooled to −78° C. Iodomethane (6 mmol) is added and the mixture warmed to room temperature over 2 hours and then stirred at room temperature for an additional 2 hours. The mixture is washed with brine and extracted with ethyl acetate (×3). The combined organic layers are dried over MgSO4 and concentrated to dryness. The crude material is purified by chromatography on silica.

reactant | tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-yl(4-cyanophenyl)carbamate | 1.5 mmol | BrC1=CC(=C(C(=C1)C)SC=1C2=C(N=C(N1)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N)C=CN2)C | C26H24BrN5O2S
reactant | LiHMDS | 2 mmol | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Iodomethane | 6 mmol | IC | CH3I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl-4-cyanophenylcarbamate | BrC1=CC(=C(C(=C1)C)SC=1C2=C(N=C(N1)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N)C=CN2C)C | C27H26BrN5O2S
